US08168621B2
The resulting 1,3-dipyrrolidinoandrosta-3,5-diene-17one is then mixed in amount of 1 equivalent, with 2.6 equivalents formalin (formaldehyde) in 10 ml dichloromethane/g at room temperature. The reaction mixture is then acidified to a pH of about 2 with 2% sulfuric acid solution. Accordingly, an organic layer is formed, which is washed with 2% sulfuric acid and 1:1 water/brine. Solvent exchange into toluene (approximately 10 ml/g) is then carried out wherein the product crystallizes as toluene exchange traspires. Said product is collected washed and dried to provide 6-hydroxymethyl-androsta-1,4-diene-3,17 dione. One of ordinary skill in the art can further modify the stereochemistry at position 6, if so desired by employing known techniques in the art.

reactant | 1,3-dipyrrolidinoandrosta-3,5-diene-17one | N1(CCCC1)C1CC(=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=O)N1CCCC1 | C27H40N2O
reactant | formalin | 2.6 equivalents | C=O | CH2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-hydroxymethyl-androsta-1,4-diene-3,17 dione | OCC1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C20H26O3
